US03962224
Diethyl aminomethylphosphonate (4.03 g., 24.1 mmole) is stirred in an ice bath while benzaldehyde (2.50 ml., 24.5 mMol) is added dropwise over a period of 5 minutes. After having been stirred an additional 15 minutes at 0°C., the mixture is diluted with absolute ethanol (20 ml.) and evaporated in vacuo. The residue is dissolved in dry benzene (20 ml.) and evaporated to give diethyl N-benzylidene-aminomethylphosphonate (6.073 g.) as a pale yellow oil: ir (CCl4) 1639, 1250, 1062, 1037, and 971 cm-1 ; nmr (CDCl3)τ8.68 (t, 6, J=7 Hz, CH3), 5.93 (d of d, 2, J=17.5 Hz and J=1 Hz, CH2), 5.85 (d of q, 4, J=8 Hz and J=7 Hz, CH2CH3), 2.65 (m, 3, ArH), 2.29 (m, 2, ArH), and 1.75 (t of d, 1, J=1 Hz and J=5 Hz, =CH).

reactant | Diethyl aminomethylphosphonate | 24.1 mmole, 4.03 g | NCP(OCC)(OCC)=O | C5H14NO3P
reactant | benzaldehyde | 24.5 mMol, 2.50 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | diethyl N-benzylidene-aminomethylphosphonate | 6.073 g | C(C1=CC=CC=C1)=NCP(OCC)(OCC)=O | C12H18NO3P
